US08633208B2
4-(4-methyl-1H-imidazol-1-yl)nitrobenzene
4-fluoronitrobenzene (32.3 g; 0.229 mol) and 4-methyl-1H-imidazole (25 g; 0.3 mol) are mixed at r.t., to this stirred mixture K2CO3 (44 g; 0.3 mol) is added. The reaction mixture is then heated at 120° C. overnight, then cooled at r.t. and poured in water (2 L), the resulting suspension is filtered and washed with water. The obtained solid is dried at 60° C. and recrystallized from ethyl acetate (600 mL), to provide the title compound as a yellow solid (22.5 g; 48.3%). The regioisomer, 4-(5-methyl-1H-imidazol-1yl)nitrobenzene remains in the crystallization mother liquor along with a certain amount of the titled product (TLC: hexane/AcOEt 3:2). C10H9N3O2, MW 203.2.

reactant | 4-fluoronitrobenzene | 0.229 mol, 32.3 g | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | 4-methyl-1H-imidazole | 0.3 mol, 25 g | CC=1N=CNC1 | C4H6N2
reactant | K2CO3 | 0.3 mol, 44 g | C(=O)([O-])[O-].[K+].[K+]
solvent | water | 2 L | O | H2O
product | 4-(4-methyl-1H-imidazol-1-yl)nitrobenzene | 22.5 g, 48.3% | CC=1N=CN(C1)C1=CC=C(C=C1)[N+](=O)[O-] | C10H9N3O2
